US06878736B1
N-(2-(1-Methyl-pyrrolidin-2-yl)ethyl)4-toluenesulfonamide.
The title compound was prepared as in Example 81 with 4-toluenesulfonyl chloride replacing 2-naphthalenesulfonyl chloride and with 2-(1-methyl-pyrrolidin-2-yl)-ethylamine replacing 2-pyrrolidin-1-yl-ethylamine. The hydrochloride salt was prepared by treatment with hydrogen chloride in 1,4-dioxan. 1H NMR (DMSO-d6) 7.62 (2H, d, 8.1), 7.47 (1H, t, 5.1), 7.37 (2H, d, 8.1), 2.86-2.70 (3H, m), 2.37 (3H, s), 2.09 (3H, s), 1.98-1.93 (2H, m), 1.7-1.49 (4H, m) 1.29-1.16 (2H, m). Microanalysis found C 52.52 H 7.30 N 8.53. C14H23ClN2O2S requires C 52.73 H 7.27 N 8.79.

reactant | 4-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 2-(1-methyl-pyrrolidin-2-yl)-ethylamine | CN1C(CCC1)CCN | C7H16N2
reactant | hydrogen chloride | Cl | ClH
solvent | 1,4-dioxan | O1CCOCC1 | C4H8O2
product | N-(2-(1-Methyl-pyrrolidin-2-yl)ethyl)4-toluenesulfonamide | CN1C(CCC1)CCNS(=O)(=O)C1=CC=C(C=C1)C | C14H22N2O2S
